US06590118B1
A mixture of 4-[2-chloro-6-(3-nitrobenzoylamino)phenoxy]benzenesulfonic acid 2,2-dimethyl-propyl ester (52 mg, 0.10 mmol) and tetraethyl ammonium chloride (54 mg, 0.5 mmol) in DMF (5 ml) was stirred at reflux temperature for 24 hours. The reaction mixture was evaporated and purified on preparative HPLC (Gilson semi-prep.column prep-NOVA-PaK®HRC18, 6 microM, 60 Å; Flow 15 ml/min Gradient: 5-100% MeCN in water (20 min)) to give 4-[2-chloro-6-(3-nitrobenzoylamino)phenoxy]benzenesulfonic acid (yield 22 mg (25%)). LC/MS: m/e 449 (M+).

reactant | 4-[2-chloro-6-(3-nitrobenzoylamino)phenoxy]benzenesulfonic acid 2,2-dimethyl-propyl ester | 0.10 mmol, 52 mg | CC(COS(=O)(=O)C1=CC=C(C=C1)OC1=C(C=CC=C1NC(C1=CC(=CC=C1)[N+](=O)[O-])=O)Cl)(C)C | C24H23ClN2O7S
catalyst | tetraethyl ammonium chloride | 0.5 mmol, 54 mg | [Cl-].C(C)[N+](CC)(CC)CC
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-[2-chloro-6-(3-nitrobenzoylamino)phenoxy]benzenesulfonic acid | yield 22 mg, 25% | ClC1=C(OC2=CC=C(C=C2)S(=O)(=O)O)C(=CC=C1)NC(C1=CC(=CC=C1)[N+](=O)[O-])=O | C19H13ClN2O7S
